US07732444B2
Intermediate 8c: 3-(2-Chloro-pyrimidin-4-yl)-benzoic acid ethyl ester:
2,4 dichloropyrimidine was coupled to 3-carboethoxyphenylboronic acid following procedure A. LC-MS showed the product to be >95% pure and to have the expected M+H+ of 195.

reactant | 2,4 dichloropyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-carboethoxyphenylboronic acid | C(=O)(OCC)C=1C=C(C=CC1)B(O)O | C9H11BO4
product | 3-(2-Chloro-pyrimidin-4-yl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C1=NC(=NC=C1)Cl)=O | C13H11ClN2O2
